US05514680
5,6,7,8-Tetrafluoro-1,4-dihydro-2,3-quinoxalinedione
The title compound (Allison, et al., J. Fluorine Chem. 1:59 (1971)) was prepared using an adaptation of the method of Cheeseman (Cheeseman, G. W. H., J. Chem. Soc. 1171 (1962)). A mixture of diethyl oxalate (2.86 mL, 4.1 mmol) and 3,4,5,6-tetrafluoro-1,2-diaminobenzene (380 mg, 2.11 mmol) was heated to reflux with stirring under N2 for 8 h. The reaction was cooled to room temperature and a small amount of purple precipitate was observed. The excess diethyl oxalate was evaporated and the resulting solid was suspended in 20 ml hexanes, vacuum filtered and the solid rinsed with hexanes (20 mL) and ethyl acetate (10 mL). The solid was air dried to yield 244.8 mg (49.9%). mp 330°-331° C. (lit. ca. 300° C. dec.). 1H NMR (d6 -DMSO) δ12.33 (br s, NH). 19F NMR (C6F6 external standard, δ-162.9), δ-157.7(m), -167.9(m).

reactant | diethyl oxalate | 4.1 mmol, 2.86 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 3,4,5,6-tetrafluoro-1,2-diaminobenzene | 2.11 mmol, 380 mg | FC=1C(=C(C(=C(C1F)F)F)N)N | C6H4F4N2
product | 5,6,7,8-Tetrafluoro-1,4-dihydro-2,3-quinoxalinedione | FC1=C2NC(C(NC2=C(C(=C1F)F)F)=O)=O | C8H2F4N2O2
